Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal Pain, Nausea/Vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo CM with PMH
metastatic carcinoid tumor s/p SBR with shortgut syndrome and
chronic diarrhea presented to ___ after visiting from
___ with cramps, pain, and ___ with electrolyte
disturbances.  

Mr. ___ is very nauseated, fatigued on exam so most answers 
are
nod yes/no and from friend. It seems he has been diagnosed with
carcinoid metastatic to bone for ___ years. We did not go into
details on treatment due to his acute nausea and pain but it
seems that he is not currently on any treatment. He did have 20
inches of his small bowel removed ___ years ago and has since had
short gut issues with continued chronic diarrhea and electrolyte
replacement. He describes several visits to ___ for abdominal
pain with multiple workups but all resolved with fluid and
electrolyte replacement. He has now been taking magnesium pills
and hydrating. 

Mr. ___ is the ___ of ___ at ___ and was in ___ giving a
lecture on racism. He Flew in on ___, 2 days ago and 
developed
mild abdominal pain, cramping, and nausea on his flight. This 
was
not related to an increase in diarrhea, fever, night sweats, or
any other infectious symptoms. Denies rhinitis, head cold. Did
have all over pain that worsened in last 12 hours requiring him
to come to the emergency department. No scan was done, LFTs WNL,
Abd exam was benign, but +nausea. 

In ED given MS 4mg and dilaudid ___s Mag replacement
 
Review of systems:  
(+) chronic diarrhea but no increase, nausea, fatigue,
reproducible chest pain, all over cramping
(-) Denies numbness/tingling, dizziness, vision changes,
hematochezia, melena, confusion, headache, hematemesis
10 pt ROS otherwise neg

PCP ___

 
___ Medical History:
Carcinoid Syndrome with metastatic disease to bone -dx ___ years 
ago s/p resection with recurrence on chemotherapy until 2 weeks 
ago when found out metastatic to bone off with plans to restart 
soon
Shortgut syndrome after bowel resection

PAST SURGICAL HISTORY:  
Small bowel resection

 
Social History:
___
Family History:
Denies FH of stroke, cancer, MI
 
Physical Exam:
Vitals: T  99.1 BP 154 / 92 HR 73 RR 20 O2 sat 99 RA   
Gen: NAD, resting, more awake today, talkative, walking in 
hallway
Eyes: EOMI, no scleral icterus
HENT: NCAT, trachea midline
CV: RRR, S1-S2, no m/r/r/g, no edema, 2+ ___ BLE
Lungs: CTA B, no w/r/r/c
GI: +BS, soft, no longer tender in abd
MSK: ___ strength bilaterally, intact ROM
Neuro: Moving all extremities, no focal deficits, A+Ox3
Skin: No rash or ecchymosis
Psych: Congruent affect, good judgment
 
Pertinent Results:
ADMISSION LABS
___ 09:35AM BLOOD WBC-8.0 RBC-3.57* Hgb-9.3* Hct-31.0* 
MCV-87 MCH-26.1 MCHC-30.0* RDW-19.6* RDWSD-56.1* Plt ___
___ 06:45AM BLOOD ___ PTT-32.3 ___
___ 09:35AM BLOOD Glucose-98 UreaN-22* Creat-2.0* Na-142 
K-5.0 Cl-106 HCO3-17* AnGap-24*
___ 09:35AM BLOOD ALT-19 AST-33 CK(CPK)-504* AlkPhos-88 
TotBili-0.5
___ 09:35AM BLOOD Albumin-4.2 Calcium-9.6 Phos-2.0* Mg-1.4*

DISCHARGE LABS
___ 06:45AM BLOOD WBC-8.2 RBC-3.43* Hgb-8.8* Hct-29.0* 
MCV-85 MCH-25.7* MCHC-30.3* RDW-19.4* RDWSD-54.1* Plt ___
___ 06:45AM BLOOD Glucose-117* UreaN-14 Creat-1.6* Na-141 
K-4.5 Cl-106 HCO3-24 AnGap-16
___ 06:45AM BLOOD Albumin-3.7 Calcium-8.7 Phos-3.1 Mg-1.9

No imaging, micro, procedures
 
Brief Hospital Course:
Mr. ___ is a ___ yo CM with PMH metastatic carcinoid tumor s/p 
SBR with shortgut syndrome and chronic diarrhea presented to 
___ after visiting from ___ with
cramps, pain, and ___ with electrolyte disturbances.  

#  Pain, diffuse abdominal
#  Cramping - no focal localized pain. All over with TTP and
allodynia on body. No rebound/guarding abd. LFTs ok, lipase ok.
Otherwise normal exam. No imaging done. Pt states in past all 
due
to low magnesium which was 1.4 on admission. Called oncologist
and left voicemail to return call tomorrow for history on
patient. Still pending records. This had completely resolved on 
time of discharge with fluids and magnesium replacement.
--Discussed possibility of findings in abd but pt since improved 
elected to go back to ___ after discussions of not having 
imaging to compare, etc. 
--Asked to continue magnesium replacement BID until f/u with 
oncologist
 
#  Acute Renal failure - unsure of baseline. Cr. 2.0 on 
admission
likely pre-renal due to n/v/chronic diarrhea. This improved to 
1.6. Will call PCP today to inform and have f/u labs drawn. Flu 
negative. 
--1.6 on discharge, continue to monitor outpatient
 
#  Chronic Diarrhea - on Imodium at home with continue inpatient
prn. Currently no indication for infectious workup.

#  Metastatic Carcinoid Tumor - per patient dx ___ years ago with 
surgery, was in remission but then recurred in liver. Has been 
on chemotherapy ___ years with dx 2 weeks ago that metastatic to 
bone. Off chemo x 2 weeks with plans to restart new soon with 
Dr. ___ at ___. I left a voicemail with Dr. ___ 
office to inform him his patient was admitted in ___.
 
# Diet: Regular   
# Code status: Full  
# Contact  ___ ___ ___ (friend), friend who
accompanied on trip is ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Magnesium Oxide 400 mg PO DAILY 
2. LOPERamide 2 mg PO QID:PRN diarrhea 
3. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron [___ ODT] 4 mg 1 tablet(s) by mouth q8hr Disp 
#*12 Tablet Refills:*0 
2.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
3.  LOPERamide 2 mg PO QID:PRN diarrhea  
4.  Magnesium Oxide 400 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Dehydration
2. Electrolyte Abnormality
3. Carcinoid metastatic to bone
4. B12 deficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your 
hospitalization. You were admitted for nausea, vomiting, and 
abdominal pain in relation to dehydration and low magnesium. We 
discussed your history and since you improved on fluids and 
replacement of your electrolytes, we have deferred any imaging 
to your oncologist. 

Please continue to take your magnesium pills. We have prescribed 
a nausea medication to help with your symptoms. 

If  you have increased abdominal pain, worsening diarrhea, blood 
in your stools or fever please return to the emergency 
department.
 
Followup Instructions:
___